.SUBCKT FUSE 1 2 PARAMS: CURRENT=0.5 RESISTANCE=1m
SW1 1 2 3 0 SMOD OFF
BNLV 3 0 V=(abs(v(1,2)))
.MODEL SMOD SW (VT={(CURRENT*RESISTANCE)} RON=1g ROFF={RESISTANCE})
.ENDS FUSE