* Source File: LM338Blk.asc
* Developer: ETech (eetech00@yahoo.com)
* Created: Mar 01 2016
* Revision: NA
*
* This TI LM338 spice model has been tested with LTSpice.
* Temperature is not modeled.
*
* block symbol definitions
.subckt LM338 IN ADJ OUT
Q2 N017 N003 N006 0 PN .1
Q4 N016 N003 N007 0 PN .1
R6 N020 N016 200k
Q8 N018 N003 N008 0 PN .2
R7 N021 N027 130
Q3 N017 N021 N035 0 NP .2
Q5 N027 N021 OUT 0 NP .2
Q6 OUT N027 N018 0 PN .2
Q7 N026 N027 N034 0 NP .2
R8 N018 N026 12.4k
Q9 N028 N026 N018 0 PN .2
Q11 N004 N028 N036 0 NP .2
Q12 OUT N029 N004 0 PN .2
Q13 IN N019 N029 0 NP .2
Q14 N019 N003 N009 0 PN .2
Q15 OUT N023 N019 0 PN .2
Q10 N004 N003 N002 0 PN .2
Q16 N023 N010 N004 0 PN .2
Q17 N023 OUT N032 0 NP .2
Q19 N010 OUT N030 0 NP 2.2
R15 N030 N032 2.4k
R14 N032 N038 12k
Q18 N010 N010 N004 0 PN .2
C1 N023 OUT 30pF Rser=0.1976
C2 N023 N038 30pF Rser=0.1976
Q20 OUT N013 N004 0 PN .2
R16 N004 N013 6.7k
C3 N013 N024 5pF Rser=0.4024
Q24A N025 N015 N033 0 NP .2
Q24B N025 N015 N031 0 NP .2
R20 N025 N024 {R20}
R17 N004 N015 12k
R21 N015 N025 400
Q22A N004 N001 IN 0 PN 2
Q22B N001 N001 IN 0 PN 2
Q23 N001 N004 N011 0 NP 2
Q25 IN N005 N012 0 NP 5
Q26 IN N012 N037 0 NP 50
R19 N004 N005 370
R18 N011 N012 130
R22 N012 OUT 160
R26 N037 OUT 0.03
R25 N037 N033 3
D2 N014 IN DZ1
D3 N031 N022 DZ1
R24 N031 N033 160
R23 N014 N022 18k
D4 N038 OUT DZ2
R13 N029 OUT 5.1k
R12 N036 OUT 72
R11 N028 OUT 5.8k
R10 N034 OUT 4.1k
R9 N035 OUT 180
D1 OUT N020 DZ1
R4 IN N002 82
R5 IN N009 5.6k
R3 IN N008 190
R2 IN N007 310
R1 IN N006 310
J§Q1 IN OUT N020 JN
R28 ADJ N038 50
Q21 N013 N024 OUT 0 NP .2
R27 N016 N021 4k
Q27 N003 N016 N017 0 NP .2
.MODEL JN NJF(BETA=1E-4 VTO=-7)
.MODEL DZ1 D(BV=6.3)
.MODEL DZ2 D(BV=6.0)
.MODEL NP NPN(EG=1.22 BF=80 RB=100 CCS=2PF TF=.3NS TR=6NS CJE=3PF CJC=2PF VAF=100 IS=1.29800E-15 RC=1 RE=1)
.MODEL PN PNP(BF=40 RB=20 TF=1NS TR=20NS CJE=6PF CJC=4PF VAF=100 IS=1.29800E-15 RC=1 RE=1)
.param R20 = 90k
.ends LM338